US04536346
4-(p-Methoxyhydrocinnamamido)benzoic acid, ethyl ester
A solution of 13.73 g. of benzocaine and 11.56 ml. of triethylamine in 100 ml. of ether is slowly added to a stirred solution of 15 g. of p-methoxyhydrocinnamoyl chloride in 100 ml. of ether. The mixture is stirred overnight, 250 ml. of dichloromethane are added, and the mixture is extracted with 200 ml. of water, then 200 ml. of 10% hydrochloric acid, dried over magnesium sulfate, and evaporated to yield a solid. This solid is crystallized from 200 ml. of toluene, giving 21.4 g. of the desired product as white crystals, m.p. 134°-135.5° C.

reactant | benzocaine | CCOC(=O)C=1C=CC(=CC1)N | C9H11NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
reactant | p-methoxyhydrocinnamoyl chloride | COC1=CC=C(CCC(=O)Cl)C=C1 | C10H11ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(p-Methoxyhydrocinnamamido)benzoic acid, ethyl ester | COC1=CC=C(CCC(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C19H21NO4
